US04049812
To a solution of 0.85 g. of [2-(2-pyridinecarbonyl)-phenyl]azo-aminoacetamide in 30 ml. of anhydrous benzene are added 0.42 g. of potassium carbonate and 1.0 ml. of chloroacetyl chloride. The mixture is refluxed with stirring for 45 minutes, and then cooled. The precipitated crystals are collected by filtration, and partitioned between saturated aqueous sodium hydrogen carbonate solution and chloroform. The chloroform layer is separated, washed with water, dried over sodium sulfate, and then the solvent is removed by distillation to give [2-(2-pyridinecarbonyl)phenyl]azo-(2-chloroacetamido)acetamide as crystals. Recrystallization from ethanol gives yellow needles, melting at 204° to 205° C. (decomposition).

reactant | [2-(2-pyridinecarbonyl)-phenyl]azo-aminoacetamide | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N=NC(C(=O)N)N | C14H13N5O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | [2-(2-pyridinecarbonyl)phenyl]azo-(2-chloroacetamido)acetamide | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N=NC(C(=O)N)NC(CCl)=O | C16H14ClN5O3
